US06417186B1
3-[4-(4,5-Dihydro-1H-imidazol-2-ylamino)phenyl]-1-(2-fluoro-4-morpholin-4-ylphenyl)propan-1-one
3-[4-(4,5-Dihydro-1H-imidazol-2-ylamino)phenyl]-1-(2-fluoro-4-morpholin-4-ylphenyl)propan-1-one hydrochloride salt, m.p. 168-171° C. Analysis for C22H26CIFN4O2.0.75H2O: Calcd.: C, 56.19; H, 6.21; N, 12.55. Found: C, 59.13; H, 6.00; N, 12.56, was prepared similarly to the procedures described in Example 3, but substituting 3-(4-aminophenyl)-1-(4-fluorophenyl)-propan-1-one in Example 3a with 3-(4-aminophenyl)-1-(2,4-difluorophenyl)-propan 1-one, and proceeding correspondingly.

reactant | 3-[4-(4,5-Dihydro-1H-imidazol-2-ylamino)phenyl]-1-(2-fluoro-4-morpholin-4-ylphenyl)propan-1-one hydrochloride salt | Cl.N1C(=NCC1)NC1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)N1CCOCC1)F
reactant | 3-(4-aminophenyl)-1-(4-fluorophenyl)-propan-1-one | NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)F | C15H14FNO
reactant | 3-(4-aminophenyl)-1-(2,4-difluorophenyl)-propan 1-one | NC1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)F)F | C15H13F2NO
product | 3-[4-(4,5-Dihydro-1H-imidazol-2-ylamino)phenyl]-1-(2-fluoro-4-morpholin-4-ylphenyl)propan-1-one | N1C(=NCC1)NC1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)N1CCOCC1)F | C22H25FN4O2
